### PR TITLE
[Merged by Bors] - doc: add wikidata attributes

### PR DESCRIPTION
**Pull request by Deicyde**
This PR adds a batch of 8 `@[wikidata]` attributes.

Claude helped generate the list of crossrefs (by scanning Wikidata + Mathlib). Comments are generated by [crossref-report](https://github.com/jcommelin/mathlib-crossref-report) and Wikilean.

See https://wikilean.jackmccarthy.org/review?pr=40970 for reviewer UI.

---

### CODE REVIEW

**Comment by Deicyde** [comment]
This PR was trimmed to the **6** `@[wikidata]` tags approved 🟢 by ≥2 reviewers (incl. a maintainer) — **ready to merge**. 2 recycled to the next batch. 

| # | Concept | Wikidata | Mathlib declaration | Reviews |
|--:|:--|:--|:--|:--|
| 1 | [Euclidean distance](https://en.wikipedia.org/wiki/Euclidean_distance) | [Q847073](https://www.wikidata.org/wiki/Q847073) | `EuclideanSpace.dist_eq` | 🟢 @Deicyde · 🟢 @faenuccio |
| 2 | [Compact operator](https://en.wikipedia.org/wiki/Compact_operator) | [Q1780743](https://www.wikidata.org/wiki/Q1780743) | `IsCompactOperator` | 🟢 @Deicyde · 🟢 @faenuccio |
| 3 | [Convex cone](https://en.wikipedia.org/wiki/Convex_cone) | [Q2256541](https://www.wikidata.org/wiki/Q2256541) | `ConvexCone` | 🟢 @Deicyde · 🟢 @faenuccio |
| 4 | [Standard Borel space](https://en.wikipedia.org/wiki/Standard_Borel_space) | [Q25378068](https://www.wikidata.org/wiki/Q25378068) | `StandardBorelSpace` | 🟢 @Deicyde · 🟢 @faenuccio |
| 5 | [Conditional probability](https://en.wikipedia.org/wiki/Conditional_probability) | [Q327069](https://www.wikidata.org/wiki/Q327069) | `ProbabilityTheory.cond` | 🟢 @Deicyde · 🟢 @faenuccio |
| 6 | [Exponential distribution](https://en.wikipedia.org/wiki/Exponential_distribution) | [Q237193](https://www.wikidata.org/wiki/Q237193) | `ProbabilityTheory.expMeasure` | 🟢 @Deicyde · 🟢 @faenuccio |

<sub>Reviews: 🟢 approve · 🟡 revise · 🔴 reject · ⚠️ deletion-candidate · 💬 comment. \* = maintainer. Recycled tags: https://wikilean.jackmccarthy.org/queue</sub>

**Comment by Deicyde** [comment]
LLM-generated

File: Mathlib/Analysis/Calculus/DifferentialForm/Basic.lean [hunk 1]
```diff
@@ -70,6 +71,7 @@ $$
 
 where $\widehat{v_i}$ means that we omit this element of the tuple, see `extDeriv_apply`.
 -/
+@[wikidata Q1047080]
 noncomputable def extDeriv (ω : E → E [⋀^Fin n]→L[𝕜] F) (x : E) : E [⋀^Fin (n + 1)]→L[𝕜] F :=
```
Comment (Deicyde) [inline Mathlib/Analysis/Calculus/DifferentialForm/Basic.lean]: <a href="https://www.wikidata.org/wiki/Q1047080">Wikidata Q1047080</a>: <b>differential form</b> — totally antisymmetric tensor field; section of exterior powers of the cotangent bundle

File: Mathlib/Data/Sign/Defs.lean [hunk 2]
```diff
@@ -262,6 +263,7 @@ section Preorder
 variable [Zero α] [Preorder α] [DecidableLT α] {a : α}
 
 /-- The sign of an element is 1 if it's positive, -1 if negative, 0 otherwise. -/
+@[wikidata Q1193832]
 def SignType.sign : α →o SignType :=
```
Comment (Deicyde) [inline Mathlib/Data/Sign/Defs.lean]: <a href="https://www.wikidata.org/wiki/Q1193832">Wikidata Q1193832</a>: <b>sign</b> — number property of being positive or negative

File: Mathlib/Analysis/Calculus/ContDiff/FTaylorSeries.lean [hunk 3]
```diff
@@ -805,6 +806,7 @@ noncomputable def iteratedFDeriv (n : ℕ) (f : E → F) : E → E [×n]→L[
     ContinuousLinearMap.uncurryLeft (fderiv 𝕜 rec x)
 
 /-- Formal Taylor series associated to a function. -/
+@[wikidata Q131187]
 def ftaylorSeries (f : E → F) (x : E) : FormalMultilinearSeries 𝕜 E F := fun n =>
```
Comment (Deicyde) [inline Mathlib/Analysis/Calculus/ContDiff/FTaylorSeries.lean]: <a href="https://www.wikidata.org/wiki/Q131187">Wikidata Q131187</a>: <b>Taylor series</b> — expression of a function as an infinite sum

File: Mathlib/Algebra/Group/Action/Pretransitive.lean [hunk 4]
```diff
@@ -56,7 +57,7 @@ class AddAction.IsPretransitive (M α : Type*) [VAdd M α] : Prop where
 
 /-- `M` acts pretransitively on `α` if for any `x y` there is `g` such that `g • x = y`.
   A transitive action should furthermore have `α` nonempty. -/
-@[to_additive (attr := mk_iff)]
+@[to_additive (attr := mk_iff, wikidata Q1324364)]
 class MulAction.IsPretransitive (M α : Type*) [SMul M α] : Prop where
```
Comment (Deicyde) [inline Mathlib/Algebra/Group/Action/Pretransitive.lean]: <a href="https://www.wikidata.org/wiki/Q1324364">Wikidata Q1324364</a>: <b>homogeneous space</b> — topological space that is the space of cosets of a topological group

File: Mathlib/Topology/MetricSpace/HausdorffDimension.lean [hunk 5]
```diff
@@ -94,6 +95,7 @@ open MeasureTheory MeasureTheory.Measure Set TopologicalSpace Module Filter
 variable {ι X Y : Type*} [EMetricSpace X] [EMetricSpace Y]
 
 /-- Hausdorff dimension of a set in an (e)metric space. -/
+@[wikidata Q1412452]
 @[irreducible] noncomputable def dimH (s : Set X) : ℝ≥0∞ := by
```
Comment (Deicyde) [inline Mathlib/Topology/MetricSpace/HausdorffDimension.lean]: <a href="https://www.wikidata.org/wiki/Q1412452">Wikidata Q1412452</a>: <b>fractal dimension</b> — mathematical quantity

File: Mathlib/Analysis/Normed/Operator/Compact/Basic.lean [hunk 6]
```diff
@@ -66,6 +67,7 @@ but we choose a definition which involves fewer existential quantifiers and repl
 with preimages.
 
 We prove the equivalence in `isCompactOperator_iff_exists_mem_nhds_image_subset_compact`. -/
+@[wikidata Q1780743]
 def IsCompactOperator {M₁ M₂ : Type*} [Zero M₁] [TopologicalSpace M₁] [TopologicalSpace M₂]
```
Comment (Deicyde) [inline Mathlib/Analysis/Normed/Operator/Compact/Basic.lean:71]: <a href="https://www.wikidata.org/wiki/Q1780743">Wikidata Q1780743</a>: <b>compact operator</b> — type of continuous linear operator

File: Mathlib/Algebra/MvPolynomial/PDeriv.lean [hunk 7]
```diff
@@ -58,6 +59,7 @@ section PDeriv
 variable [CommSemiring R]
 
 /-- `pderiv i p` is the partial derivative of `p` with respect to `i` -/
+@[wikidata Q186475]
 def pderiv (i : σ) : Derivation R (MvPolynomial σ R) (MvPolynomial σ R) :=
```
Comment (Deicyde) [inline Mathlib/Algebra/MvPolynomial/PDeriv.lean]: <a href="https://www.wikidata.org/wiki/Q186475">Wikidata Q186475</a>: <b>partial derivative</b> — derivative of a function of several variables with respect to one variable, with the others held constant

File: Mathlib/MeasureTheory/Integral/Bochner/Basic.lean [hunk 8]
```diff
@@ -157,6 +158,7 @@ variable [NormedAddCommGroup E] [NormedDivisionRing 𝕜]
 
 open Classical in
 /-- The Bochner integral -/
+@[wikidata Q200125]
 irreducible_def integral {_ : MeasurableSpace α} (μ : Measure α) (f : α → G) : G :=
```
Comment (Deicyde) [inline Mathlib/MeasureTheory/Integral/Bochner/Basic.lean]: <a href="https://www.wikidata.org/wiki/Q200125">Wikidata Q200125</a>: <b>expectation</b> — long-run average value of a random variable

File: Mathlib/Tactic/ITauto.lean [hunk 9]
```diff
@@ -97,6 +98,7 @@ inductive AndKind | and | iff | eq
 instance : Inhabited AndKind := ⟨AndKind.and⟩
 
 /-- A reified inductive type for propositional logic. -/
+@[wikidata Q200694]
 inductive IProp : Type
```
Comment (Deicyde) [inline Mathlib/Tactic/ITauto.lean]: <a href="https://www.wikidata.org/wiki/Q200694">Wikidata Q200694</a>: <b>propositional calculus</b> — branch of logic concerned with the study of propositions (whether they are true or false) that are formed by other propositions with the use of logical connectives, and how their value depends on the truth value of their components

File: Mathlib/Geometry/Convex/Cone/Basic.lean [hunk 10]
```diff
@@ -55,6 +56,7 @@ variable [Semiring R] [PartialOrder R]
 variable (R M) in
 /-- A convex cone is a subset `s` of an `R`-module such that `a • x + b • y ∈ s` whenever `a, b > 0`
 and `x, y ∈ s`. -/
+@[wikidata Q2256541]
 structure ConvexCone [AddCommMonoid M] [SMul R M] where
```
Comment (Deicyde) [inline Mathlib/Geometry/Convex/Cone/Basic.lean:60]: <a href="https://www.wikidata.org/wiki/Q2256541">Wikidata Q2256541</a>: <b>convex cone</b> — subset of a vector space closed under positive linear combinations

File: Mathlib/Probability/Distributions/Exponential.lean [hunk 11]
```diff
@@ -90,6 +91,7 @@ end ExponentialPDF
 open MeasureTheory
 
 /-- Measure defined by the exponential distribution -/
+@[wikidata Q237193]
 noncomputable
```
Comment (Deicyde) [inline Mathlib/Probability/Distributions/Exponential.lean:95]: <a href="https://www.wikidata.org/wiki/Q237193">Wikidata Q237193</a>: <b>exponential distribution</b> — probability distribution

File: Mathlib/MeasureTheory/Constructions/Polish/Basic.lean [hunk 12]
```diff
@@ -76,6 +77,7 @@ the natural topology in a space is non-Polish.
 To endow a standard Borel space `α` with a compatible Polish topology, use
 `letI := upgradeStandardBorel α`. One can then use `eq_borel_upgradeStandardBorel α` to
 rewrite the `MeasurableSpace α` instance to `borel α t`, where `t` is the new topology. -/
+@[wikidata Q25378068]
 class StandardBorelSpace [MeasurableSpace α] : Prop where
```
Comment (Deicyde) [inline Mathlib/MeasureTheory/Constructions/Polish/Basic.lean:81]: <a href="https://www.wikidata.org/wiki/Q25378068">Wikidata Q25378068</a>: <b>standard Borel space</b> — mathematical construction in topology

File: Mathlib/Probability/Distributions/Uniform.lean [hunk 13]
```diff
@@ -60,6 +61,7 @@ variable {_ : MeasurableSpace Ω} {ℙ : Measure Ω}
 
 /-- A random variable `X` has uniform distribution on `s` if its push-forward measure is
 `(μ s)⁻¹ • μ.restrict s`. -/
+@[wikidata Q274506]
 def IsUniform (X : Ω → E) (s : Set E) (ℙ : Measure Ω) (μ : Measure E := by volume_tac) :=
```
Comment (Deicyde) [inline Mathlib/Probability/Distributions/Uniform.lean]: <a href="https://www.wikidata.org/wiki/Q274506">Wikidata Q274506</a>: <b>continuous uniform distribution</b> — uniform distribution on an interval

File: Mathlib/Probability/ConditionalProbability.lean [hunk 14]
```diff
@@ -71,6 +72,7 @@ variable (μ) in
 /-- The conditional probability measure of measure `μ` on set `s` is `μ` restricted to `s`
 and scaled by the inverse of `μ s` (to make it a probability measure):
 `(μ s)⁻¹ • μ.restrict s`. -/
+@[wikidata Q327069]
 def cond (s : Set Ω) : Measure Ω :=
```
Comment (Deicyde) [inline Mathlib/Probability/ConditionalProbability.lean:76]: <a href="https://www.wikidata.org/wiki/Q327069">Wikidata Q327069</a>: <b>conditional probability</b> — measure of likelihood of an event when another event is known to have occurred

File: Mathlib/ModelTheory/Basic.lean [hunk 15]
```diff
@@ -55,6 +56,7 @@ namespace FirstOrder
 set_option linter.checkUnivs false in
 /-- A first-order language consists of a type of functions of every natural-number arity and a
   type of relations of every natural-number arity. -/
+@[wikidata Q4055684]
 structure Language where
```
Comment (Deicyde) [inline Mathlib/ModelTheory/Basic.lean]: <a href="https://www.wikidata.org/wiki/Q4055684">Wikidata Q4055684</a>: <b>first-order logic</b> — collection of formal systems used in mathematics, philosophy, linguistics, and computer science

File: Mathlib/Analysis/InnerProductSpace/SingularValues.lean [hunk 16]
```diff
@@ -91,6 +92,7 @@ the infinite sequence are zero. Please see the module docstring of
 The singular values are zero-indexed, so `T.singularValues 0` refers to the first singular value.
 This means the positive singular values occur at `0 ≤ i < rank(T)` and not `1 ≤ i ≤ rank(T)`.
 -/
+@[wikidata Q4166054]
 noncomputable def singularValues : ℕ →₀ ℝ :=
```
Comment (Deicyde) [inline Mathlib/Analysis/InnerProductSpace/SingularValues.lean]: <a href="https://www.wikidata.org/wiki/Q4166054">Wikidata Q4166054</a>: <b>singular value</b> — in mathematics, the square root of an eigenvalue of a nonnegative self-adjoint operator

File: Mathlib/Analysis/InnerProductSpace/Harmonic/Basic.lean [hunk 17]
```diff
@@ -36,6 +37,7 @@ Let `E` be a real, finite-dimensional, inner product space and `x` be a point of
 on `E` is harmonic at `x` if it is two times continuously `ℝ`-differentiable and if its Laplacian
 vanishes in a neighborhood of `x`.
 -/
+@[wikidata Q599027]
 def HarmonicAt := (ContDiffAt ℝ 2 f x) ∧ (Δ f =ᶠ[𝓝 x] 0)
```
Comment (Deicyde) [inline Mathlib/Analysis/InnerProductSpace/Harmonic/Basic.lean]: <a href="https://www.wikidata.org/wiki/Q599027">Wikidata Q599027</a>: <b>harmonic function</b> — function with vanishing Laplacian

File: Mathlib/MeasureTheory/Measure/Typeclasses/Probability.lean [hunk 18]
```diff
@@ -61,6 +62,7 @@ end IsZeroOrProbabilityMeasure
 section IsProbabilityMeasure
 
 /-- A measure `μ` is called a probability measure if `μ univ = 1`. -/
+@[wikidata Q623472]
 class IsProbabilityMeasure (μ : Measure α) : Prop where
```
Comment (Deicyde) [inline Mathlib/MeasureTheory/Measure/Typeclasses/Probability.lean]: <a href="https://www.wikidata.org/wiki/Q623472">Wikidata Q623472</a>: <b>probability space</b> — mathematical concept

File: Mathlib/Analysis/InnerProductSpace/PiL2.lean [hunk 19]
```diff
@@ -156,6 +156,7 @@ theorem EuclideanSpace.real_norm_sq_eq {n : Type*} [Fintype n] (x : EuclideanSpa
     ‖x‖ ^ 2 = ∑ i, (x i) ^ 2 := by
   simp [EuclideanSpace.norm_sq_eq]
 
+@[wikidata Q847073]
 theorem EuclideanSpace.dist_eq {𝕜 : Type*} [RCLike 𝕜] {n : Type*} [Fintype n]
```
Comment (Deicyde) [inline Mathlib/Analysis/InnerProductSpace/PiL2.lean:160]: <a href="https://www.wikidata.org/wiki/Q847073">Wikidata Q847073</a>: <b>Euclidean distance</b> — conventional distance in mathematics and physics

File: Mathlib/Algebra/Homology/EulerCharacteristic.lean [hunk 20]
```diff
@@ -115,6 +116,7 @@ lemma finrankSupport_subset_iff (X : CategoryTheory.GradedObject ι (ModuleCat R
 /-- The Euler characteristic of a graded object as a sum over all indices.
 The sign at each index is determined by the `ComplexShape.EulerCharSigns` instance.
 Defaults to 0 if the support of the ranks of the objects of `X` is infinite. -/
+@[wikidata Q852973]
 noncomputable def eulerChar (X : CategoryTheory.GradedObject ι (ModuleCat R)) : ℤ :=
```
Comment (Deicyde) [inline Mathlib/Algebra/Homology/EulerCharacteristic.lean]: <a href="https://www.wikidata.org/wiki/Q852973">Wikidata Q852973</a>: <b>Euler characteristic</b> — topological invariant in mathematics

File: Mathlib/MeasureTheory/Constructions/BorelSpace/Basic.lean [hunk 21]
```diff
@@ -112,6 +113,7 @@ class OpensMeasurableSpace (α : Type*) [TopologicalSpace α] [h : MeasurableSpa
 
 /-- A space with `MeasurableSpace` and `TopologicalSpace` structures such that
 the `σ`-algebra of measurable sets is exactly the `σ`-algebra generated by open sets. -/
+@[wikidata Q892585]
 class BorelSpace (α : Type*) [TopologicalSpace α] [MeasurableSpace α] : Prop where
```
Comment (Deicyde) [inline Mathlib/MeasureTheory/Constructions/BorelSpace/Basic.lean]: <a href="https://www.wikidata.org/wiki/Q892585">Wikidata Q892585</a>: <b>Borel measure</b> — measure defined on all open sets of a topological space

File: Mathlib/Algebra/MvPolynomial/PDeriv.lean [hunk 22]
```diff
@@ -58,6 +59,7 @@ section PDeriv
 variable [CommSemiring R]
 
 /-- `pderiv i p` is the partial derivative of `p` with respect to `i` -/
+@[wikidata Q186475]
```
Comment (wwylele) [inline Mathlib/Algebra/MvPolynomial/PDeriv.lean]: The mathlib entry is specifically for `MvPolynomial` as an algebraic object, but partial derivative is usually introduced as an analytic concept like wikipedia does. I would argue this wikidata tag should go to `deriv`

**Review by wwylele — APPROVED** [review]

File: Mathlib/Algebra/MvPolynomial/PDeriv.lean (hunk 22 above)
Comment (wwylele) [reply Mathlib/Algebra/MvPolynomial/PDeriv.lean]: (oops, I accidentally clicked "approve". Please ignore it)

**Comment by wwylele** [comment]
## WikiLean review

- **[Q186475](https://www.wikidata.org/wiki/Q186475)** Partial derivative — `Mathlib/Algebra/MvPolynomial/PDeriv.lean:62`
  - status: 🔴 **reject**
- **[Q200694](https://www.wikidata.org/wiki/Q200694)** Propositional logic — `Mathlib/Tactic/ITauto.lean:101`
  - status: 🔴 **reject**
  - This is the internal of the itauto tactic, and not considered as public API of Mathlib, right? I don't think we should tag anything in the Tactic folder
- **[Q1412452](https://www.wikidata.org/wiki/Q1412452)** Fractal dimension — `Mathlib/Topology/MetricSpace/HausdorffDimension.lean:98`
  - Pedantically speaking, this should be Q565186 (Hausdorff dimension), which is just one type of fractal dimension (possibly the most used one)

<sub>Generated by the WikiLean review tool — [review this PR](https://wikilean.jackmccarthy.org/review?repo=leanprover-community%2Fmathlib4&pr=40970)</sub>

**Comment by Deicyde** [comment]
## WikiLean review

- **[Q1324364](https://www.wikidata.org/wiki/Q1324364)** Homogeneous space — `Mathlib/Algebra/Group/Action/Pretransitive.lean:60`
  - status: 🔴 **reject**
- **[Q186475](https://www.wikidata.org/wiki/Q186475)** Partial derivative — `Mathlib/Algebra/MvPolynomial/PDeriv.lean:62`
  - status: 🔴 **reject**
- **[Q131187](https://www.wikidata.org/wiki/Q131187)** Taylor series — `Mathlib/Analysis/Calculus/ContDiff/FTaylorSeries.lean:809`
  - status: 🔴 **reject**
  - Let's re-target this to `HasFTaylorSeriesUpTo`
- **[Q1047080](https://www.wikidata.org/wiki/Q1047080)** Differential form — `Mathlib/Analysis/Calculus/DifferentialForm/Basic.lean:74`
  - status: 🔴 **reject**
  - Differential forms are not yet in Mathlib (coming soon)
- **[Q599027](https://www.wikidata.org/wiki/Q599027)** Harmonic function — `Mathlib/Analysis/InnerProductSpace/Harmonic/Basic.lean:40`
  - status: 🔴 **reject**
  - Retarget to `HarmonicOnNhd` since the Wikipedia article specifically says the function should be harmonic on an entire open set, not just at a point.
- **[Q847073](https://www.wikidata.org/wiki/Q847073)** Euclidean distance — `Mathlib/Analysis/InnerProductSpace/PiL2.lean:159`
  - status: 🟢 **approve**
  - There's also `Euclidean.dist` which is an actual `def` instead of `theorem`? I think both would be a valid tag for the notion of "Euclidean distace"
- **[Q4166054](https://www.wikidata.org/wiki/Q4166054)** Singular value — `Mathlib/Analysis/InnerProductSpace/SingularValues.lean:95`
  - status: 🟢 **approve**
- **[Q1780743](https://www.wikidata.org/wiki/Q1780743)** Compact operator — `Mathlib/Analysis/Normed/Operator/Compact/Basic.lean:70`
  - status: 🟢 **approve**
- **[Q1193832](https://www.wikidata.org/wiki/Q1193832)** Sign (mathematics) — `Mathlib/Data/Sign/Defs.lean:266`
  - status: 🟢 **approve**
  - Or do we prefer to tag `SignType` itself?
- **[Q2256541](https://www.wikidata.org/wiki/Q2256541)** Convex cone — `Mathlib/Geometry/Convex/Cone/Basic.lean:59`
  - status: 🟢 **approve**
- **[Q892585](https://www.wikidata.org/wiki/Q892585)** Borel measure — `Mathlib/MeasureTheory/Constructions/BorelSpace/Basic.lean:116`
  - status: 🔴 **reject**
  - Close but not quite. A Borel measure is a measure defined on a `BorelSpace`, which I'm not sure is explicitly defined in Mathlib
- **[Q25378068](https://www.wikidata.org/wiki/Q25378068)** Standard Borel space — `Mathlib/MeasureTheory/Constructions/Polish/Basic.lean:80`
  - status: 🟢 **approve**
- **[Q623472](https://www.wikidata.org/wiki/Q623472)** Probability space — `Mathlib/MeasureTheory/Measure/Typeclasses/Probability.lean:65`
  - status: 🔴 **reject**
  - Instead tag probability measure (Q355020)
- **[Q200125](https://www.wikidata.org/wiki/Q200125)** Expected value — `Mathlib/MeasureTheory/Integral/Bochner/Basic.lean:161`
  - status: 🔴 **reject**
  - Retarget to Bochner integral (Q889019)
- **[Q852973](https://www.wikidata.org/wiki/Q852973)** Euler characteristic — `Mathlib/Algebra/Homology/EulerCharacteristic.lean:119`
  - status: 🔴 **reject**
  - Incorrect. This is a generalization of the Euler Charactaristic. The actual Euler Characteristic is the specialization of this definition to the singular homology complex.
- **[Q4055684](https://www.wikidata.org/wiki/Q4055684)** First-order logic — `Mathlib/ModelTheory/Basic.lean:59`
  - status: 🔴 **reject**
  - Retarget to `first-order language (Q131350632)`
- **[Q327069](https://www.wikidata.org/wiki/Q327069)** Conditional probability — `Mathlib/Probability/ConditionalProbability.lean:75`
  - status: 🟢 **approve**
- **[Q237193](https://www.wikidata.org/wiki/Q237193)** Exponential distribution — `Mathlib/Probability/Distributions/Exponential.lean:94`
  - status: 🟢 **approve**
- **[Q274506](https://www.wikidata.org/wiki/Q274506)** Continuous uniform distribution — `Mathlib/Probability/Distributions/Uniform.lean:64`
  - status: 🔴 **reject**
  - Mathlib is a strict generalization. It does not require the distribution to be continuous.
- **[Q200694](https://www.wikidata.org/wiki/Q200694)** Propositional logic — `Mathlib/Tactic/ITauto.lean:101`
  - status: 🔴 **reject**
- **[Q1412452](https://www.wikidata.org/wiki/Q1412452)** Fractal dimension — `Mathlib/Topology/MetricSpace/HausdorffDimension.lean:98`
  - status: 🔴 **reject**
  - Retarget to `Hausdorff dimension (Q565186)`

<sub>Generated by the WikiLean review tool — [review this PR](https://wikilean.jackmccarthy.org/review?repo=leanprover-community%2Fmathlib4&pr=40970)</sub>

File: Mathlib/Algebra/Group/Action/Pretransitive.lean (hunk 4 above)
Comment (SnirBroshi) [reply Mathlib/Algebra/Group/Action/Pretransitive.lean]: [Q121074938](https://www.wikidata.org/wiki/Q121074938)

File: Mathlib/MeasureTheory/Integral/Bochner/Basic.lean (hunk 8 above)
Comment (SnirBroshi) [reply Mathlib/MeasureTheory/Integral/Bochner/Basic.lean]: [Q889019](https://www.wikidata.org/wiki/Q889019)

File: Mathlib/Tactic/ITauto.lean (hunk 9 above)
Comment (SnirBroshi) [reply Mathlib/Tactic/ITauto.lean]: Technically true but this is in a tactic implementation which shouldn't be tagged

File: Mathlib/ModelTheory/Basic.lean (hunk 15 above)
Comment (SnirBroshi) [reply Mathlib/ModelTheory/Basic.lean]: [Q131350632](https://www.wikidata.org/wiki/Q131350632)

File: Mathlib/MeasureTheory/Measure/Typeclasses/Probability.lean (hunk 18 above)
Comment (SnirBroshi) [reply Mathlib/MeasureTheory/Measure/Typeclasses/Probability.lean]: [Q355020](https://www.wikidata.org/wiki/Q355020)

File: Mathlib/MeasureTheory/Constructions/BorelSpace/Basic.lean (hunk 21 above)
Comment (SnirBroshi) [reply Mathlib/MeasureTheory/Constructions/BorelSpace/Basic.lean]: [Q1080067](https://www.wikidata.org/wiki/Q1080067)

**Comment by faenuccio** [comment]
## WikiLean review

- **[Q847073](https://www.wikidata.org/wiki/Q847073)** Euclidean distance — `Mathlib/Analysis/InnerProductSpace/PiL2.lean:159`
  - status: 🟢 **approve**
- **[Q4166054](https://www.wikidata.org/wiki/Q4166054)** Singular value — `Mathlib/Analysis/InnerProductSpace/SingularValues.lean:95`
  - status: 🔴 **reject** _(was 🟢 approve)_
  - We only have singular values in finite dimension and it is too premature, since they're very useful in the infinite dimensional case as well (treated in wikipedia).
- **[Q1780743](https://www.wikidata.org/wiki/Q1780743)** Compact operator — `Mathlib/Analysis/Normed/Operator/Compact/Basic.lean:70`
  - status: 🟢 **approve**
- **[Q1193832](https://www.wikidata.org/wiki/Q1193832)** Sign (mathematics) — `Mathlib/Data/Sign/Defs.lean:266`
  - status: 🔴 **reject** _(was 🟢 approve)_
  - Our definition is soooo much more general that I think this is almost misleading.
- **[Q2256541](https://www.wikidata.org/wiki/Q2256541)** Convex cone — `Mathlib/Geometry/Convex/Cone/Basic.lean:59`
  - status: 🟢 **approve**
- **[Q25378068](https://www.wikidata.org/wiki/Q25378068)** Standard Borel space — `Mathlib/MeasureTheory/Constructions/Polish/Basic.lean:80`
  - status: 🟢 **approve**
- **[Q327069](https://www.wikidata.org/wiki/Q327069)** Conditional probability — `Mathlib/Probability/ConditionalProbability.lean:75`
  - status: 🟢 **approve**
- **[Q237193](https://www.wikidata.org/wiki/Q237193)** Exponential distribution — `Mathlib/Probability/Distributions/Exponential.lean:94`
  - status: 🟢 **approve**

<sub>Generated by the WikiLean review tool — [review this PR](https://wikilean.jackmccarthy.org/review?repo=leanprover-community%2Fmathlib4&pr=40970)</sub>

File: Mathlib/Data/Tree/Basic.lean [hunk 23]
```diff
@@ -6,6 +6,7 @@ Authors: Mario Carneiro, Wojciech Nawrocki
 module
 
 public import Mathlib.Data.Nat.Notation
+public import Mathlib.Tactic.CrossRefAttribute
```
Comment (faenuccio) [inline Mathlib/Data/Tree/Basic.lean:9]:
```suggestion
```
we're not adding any tag to this file

**Comment by faenuccio** [comment]
thanks

bors d+
